US07846960B2
{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-carbamic Acid Tert-butyl Ester
To a 0° C. solution of {4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic acid tert-butyl ester (1.9 g, 3.9 mmol) in DMF (15 mL) is added sodium hydride (60% dispersion in mineral oil, 0.19 g, 4.7 mmol) portionwise. The mixture is stirred at 0° C. for 30 minutes. Iodomethane (0.83 g, 5.9 mmol) is added dropwise. The reaction mixture is then stirred at room temperature for 1.0 h. The reaction is quenched with the addition of saturated ammonium chloride (20 mL) at 0° C. The reaction mixture is partitioned between EtOAc (30 mL) and water (20 mL). The organic phase is washed with brine (30 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to yield the title compound (1.85 g, 95%) as a foamy solid. LC-ES/MS m/e 526.0 (M+23).

reactant | {4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic acid tert-butyl ester | 3.9 mmol, 1.9 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C25H29Cl2N3O3
reactant | sodium hydride | 4.7 mmol, 0.19 g | [H-].[Na+]
reactant | Iodomethane | 5.9 mmol, 0.83 g | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | {4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-carbamic Acid Tert-butyl Ester | 1.85 g, 95% | C(C)(C)(C)OC(N(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C26H31Cl2N3O3
